US07691854B2
2-(Trimethylsilyl)ethylcyanoacetate
2000 mg (16.91 mmol) 2-(Trimethylsilyl)ethanol are dissolved in 160 ml diethylether. 1307 mg (15.38 mmol) cyanoacetic acid, 3489 mg (16.91 mmol) N,N′-dicyclohexylcarbodiimide and 227 mg (1.54 mmol) 4-(1-pyrrolidinyl)pyridine are added. The mixture is stirred at room temperature for 3 hours under an argon atmosphere and kept at room temperature overnight. The suspension is filtered and the filtrate is washed twice with 5% aqueous acetic acid and twice with water. The organic phase is dried over sodium sulfate, filtered and the solvent is evaporated in vacuo. The residue is re-dissolved in 10 ml hexane and the suspension is filtered over 1 g silica. After evaporation of the solvent, distillation at 0.51 mbar yields the desired product.

reactant | 2-(Trimethylsilyl)ethanol | 16.91 mmol, 2000 mg | C[Si](CCO)(C)C | C5H14OSi
reactant | cyanoacetic acid | 15.38 mmol, 1307 mg | C(#N)CC(=O)O | C3H3NO2
reactant | N,N′-dicyclohexylcarbodiimide | 16.91 mmol, 3489 mg | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | 4-(1-pyrrolidinyl)pyridine | 1.54 mmol, 227 mg | N1(CCCC1)C1=CC=NC=C1 | C9H12N2
solvent | diethylether | 160 ml | C(C)OCC | C4H10O
product | 2-(Trimethylsilyl)ethylcyanoacetate | C[Si](CCOC(CC#N)=O)(C)C | C8H15NO2Si
